US07141672B2
Step a) 4′-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde
This compound was prepared from 4-(4-bromo-phenyl)-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole, and 4-formylbenzeneboronic acid in substantially the same manner, as described in Example 1 step c, and was obtained as an off-white solid; MS m/e 407 (M+);

reactant | 4-(4-bromo-phenyl)-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | BrC1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C17H11BrF3NO
reactant | 4-formylbenzeneboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 4′-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C24H16F3NO2
